US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((7-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
DIPEA (0.693 mL, 3.98 mmol, 1.5 eq) was added to a mixture of ethyl 7-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (850 mg, 2.65 mmol, 1.0 eq) and glycine tert-butyl ester hydrochloride (0.534 g, 3.18 mmol, 1.2 eq) in dioxane (20 mL). The reaction mixture was stirred at 75° C. for 17 hours. The reaction mixture was then cooled to room temperature and concentrated in vacuo to give a yellow solid. The crude solid was suspended in ether and filtered to give the title compound as an off-white solid (703 mg). MS (m/e)=406.2 (M+H)+.

reactant | DIPEA | 3.98 mmol, 0.693 mL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl 7-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 2.65 mmol, 850 mg, 1.0 eq | FC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)OCC)O | C17H17FO5
reactant | glycine tert-butyl ester hydrochloride | 3.18 mmol, 0.534 g, 1.2 eq | Cl.C(C)(C)(C)OC(CN)=O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 1,1-Dimethylethyl N-((7-fluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 703 mg | FC1=CC=C2C(=C(C(C3(CCOCC3)C2=C1)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H24FNO6
